US05650428
The procedure described in Example 79 was repeated, except that (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide (560 mg) was reacted with imidazole to obtain the desired (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-(1H-imidazol-1-yl)propanamide (152.3 mg) together with a less polar by-product. The by-product was not investigated further.

reactant | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide | 560 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COS(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C20H23FN2O8S2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-(1H-imidazol-1-yl)propanamide | 152.3 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(CN1C=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C22H23FN4O5S
